US05321002
Step C Synthesis of N-methoxycarbonylmethoxy-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyano-1H-5-pyrazolylcarboxamide
A solution of 2.31 g (0.022 mole) of methyl aminooxyacetate and 2.53 g (0.025 mole) of triethylamine in 70 mL of diethyl ether was cooled to -5° to 0° C. While this temperature was maintained, a solution of 7.4 g (0.020 mole) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyano-1H-5-pyrazolylcarboxylic acid chloride in 105 mL of tetrahydrofuran was added to the cooled solution during a 20 minute period. Upon completion of addition, the cooling bath was removed, and the resulting slurry was stirred at ambient temperature for 125 minutes. The slurry was filtered, and the filtrate was evaporated under reduced pressure, leaving a residue. This residue was dissolved in ethyl acetate, and this solution was washed twice with an aqueous solution of sodium chloride. The solution was then dried over anhydrous magnesium sulfate, filtered, and the solvent evaporated from the filtrate under reduced pressure, leaving a tacky solid residue weighing 8.54 g. This solid was triturated with petroleum ether for a period of approximately 17 hours. The resulting N-methoxycarbonylmethoxy-1-(2,6-dichloro-4-trifluoromethyl-phenyl)-4-cyano-1H-5-pyrazolylcarboxamide, weighing 7.5 g, was recovered by filtration. The NMR spectrum was consistent with the proposed structure.

reactant | methyl aminooxyacetate | 0.022 mole, 2.31 g | NOCC(=O)OC | C3H7NO3
reactant | triethylamine | 0.025 mole, 2.53 g | C(C)N(CC)CC | C6H15N
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyano-1H-5-pyrazolylcarboxylic acid chloride | 0.020 mole, 7.4 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1C(=O)Cl)C#N | C12H3Cl3F3N3O
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 105 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methoxycarbonylmethoxy-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyano-1H-5-pyrazolylcarboxamide | COC(=O)CONC(=O)C1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C15H9Cl2F3N4O4
